US06107495
(±) 2,6-Dichloro-1-phenylhexane
By operating as in Preparation 7 and starting from 12.3 g of 6-chloro-1-phenyl-hexan-2-ol and 12.9 g of thionyl chloride, 13.3 g of expected product is recovered.

reactant | 6-chloro-1-phenyl-hexan-2-ol | 12.3 g | ClCCCCC(CC1=CC=CC=C1)O | C12H17ClO
reactant | thionyl chloride | 12.9 g | S(=O)(Cl)Cl | Cl2OS
product | (±) 2,6-Dichloro-1-phenylhexane | 13.3 g | ClC(CC1=CC=CC=C1)CCCCCl | C12H16Cl2
